US06232316B1
(4E)-5-(3-Pyridyl)-4-penten-2-ol p-Toluenesulfonate
To a stirred solution of (4E)-5-(3-pyridyl)-4-penten-2-ol (5.00 g, 30.67 mmol) in dry pyridine (30 mL) at 0° C. was added p-toluenesulfonyl chloride (8.77 g, 46.01 mmol). The reaction mixture was stirred for 24 h at ambient temperature. The pyridine was removed by rotary evaporation. Toluene (50 mL) was added to the residue and subsequently removed by rotary evaporation. The crude product was stirred with a saturated solution of sodium bicarbonate (100 mL) and extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation. The crude product was purified by column chromatography over aluminum oxide, eluting with ethyl acetate-hexane (3:7, v/v). Selected fractions were combined and concentrated by rotary evaporation to give a viscous, brown oil (5.83 g, 60.1%).

reactant | (4E)-5-(3-pyridyl)-4-penten-2-ol | 30.67 mmol, 5.00 g | N1=CC(=CC=C1)/C=C/CC(C)O | C10H13NO
reactant | p-toluenesulfonyl chloride | 46.01 mmol, 8.77 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | (4E)-5-(3-Pyridyl)-4-penten-2-ol p-Toluenesulfonate | 5.83 g, 60.1% | C1(=CC=C(C=C1)S(=O)(=O)OC(C)C\C=C\C=1C=NC=CC1)C | C17H19NO3S
